US05294734
17.0 g (59.1 mmol) of ethyl 6-acetoxy-2-formylamino-3-hydroxy-4-methylene-heptanoate are dissolved in 170 ml of CH2Cl2 and 5.5 ml (71 mmol) of thionyl bromide are then added dropwise at room temperature. After 1 hour, 100 ml of water are added and the batch is vigorously stirred for 10 minutes. The organic phase is separated and washed once with water, once with a 1N solution of KHCO3 and twice with water. The aqueous phases are extracted twice with CH2Cl2. The combined organic phases are dried over MgSO4, filtered and concentrated by evaporation, giving ethyl 6-acetoxy-4-bromomethyl-2-formylamino-hept-3-enoate as a brown oil which is further reacted without purification.

reactant | ethyl 6-acetoxy-2-formylamino-3-hydroxy-4-methylene-heptanoate | 59.1 mmol, 17.0 g | C(C)(=O)OC(CC(C(C(C(=O)OCC)NC=O)O)=C)C | C13H21NO6
reactant | thionyl bromide | 71 mmol, 5.5 ml | S(=O)(Br)Br | Br2OS
reactant | water | 100 ml | O | H2O
solvent | CH2Cl2 | 170 ml | C(Cl)Cl | CH2Cl2
product | ethyl 6-acetoxy-4-bromomethyl-2-formylamino-hept-3-enoate | C(C)(=O)OC(CC(=CC(C(=O)OCC)NC=O)CBr)C | C13H20BrNO5
